US04110450
Ethyl (6-dimethylaminopyridazin-3-yl)-carboxylate can be obtained by heating a suspension of 3-cyano-6-dimethylaminopyridazine (52.7 g) in a mixture of distilled water (600 cc), 10N sodium hydroxide solution (200 cc) and ethanol (400 cc) at a temperature of about 70° C for 41/2 hours. After cooling to a temperature of about 20° C, methylene chloride (200 cc) is added to the reaction mixture which is allowed to stand for 12 hours at a temperature of about 20° C. The aqueous phase is decanted, acidified with 12N hydrochloric acid (150 cc), and evaporated to dryness under reduced pressure. Ethanol (360 cc), 1,2-dichloroethane (360 cc) and pure methane-sulphonic acid (76 g) are added to the residue thus obtained. The resulting mixture is then heated under reflux for 20 hours. After cooling to a temperature of about 20° C, the insoluble material which has formed is filtered off and washed with methylene chloride (3 × 20 cc). A saturated aqueous sodium carbonate solution (720 cc) is added to the filtrate thus obtained. The resulting insoluble product is filtered off and washed with methylene chloride (2 × 200 cc). The aqueous phase is decanted and washed with methylene chloride (2 × 100 cc). The combined organic fractions are dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure. Ethyl (6-dimethylaminopyridazin-3-yl)-carboxylate (50.81 g), melting at 112° C is thus obtained.

reactant | 3-cyano-6-dimethylaminopyridazine | 52.7 g | C(#N)C=1N=NC(=CC1)N(C)C | C7H8N4
reactant | water | 600 cc | O | H2O
reactant | sodium hydroxide | 10N, 200 cc | [OH-].[Na+]
reactant | ethanol | 400 cc | C(C)O | C2H6O
solvent | methylene chloride | 200 cc | C(Cl)Cl | CH2Cl2
product | Ethyl (6-dimethylaminopyridazin-3-yl)-carboxylate | 50.81 g | CN(C1=CC=C(N=N1)C(=O)OCC)C | C9H13N3O2
